US07256198B2
8-{[(2S)-2-(Hydroxymethyl)pyrrolidin-1-yl]sulfonyl}-3,3-dimethyl-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one
A mixture of 3-[5′-({(2S)-2-[(benzyloxy)methyl]pyrrolidin-1-yl}sulfonyl)-2′-oxospiro[1,3-dioxane-2,3′-indol]-1′(2′H)-yl]-2,2-dimethylpropanenitrile (3.00 g, 5.56 mmol), wet Raney Nickel (3.18 g) in 2M EtOH.NH3 (180 mL) and THF (30 mL) was hydrogenated at 54 lb/in2 H2 for 22 hr. The reaction was filtered through Sulka Floc and the filtrate was poured into a steel pressure vessel and heated to 132° C. for 18 hr. After cooling to room temperature the reaction was concentrated. The crude product was purified on Biotage KP silica gel eluting with CH2Cl2/CH3OH/NH4OH (98.5/1/0.5) to give the title compound as a white solid (1.77 g, 60% ). NMR (400 MHz, DMSO-d6): consistent.

reactant | 3-[5′-({(2S)-2-[(benzyloxy)methyl]pyrrolidin-1-yl}sulfonyl)-2′-oxospiro[1,3-dioxane-2,3′-indol]-1′(2′H)-yl]-2,2-dimethylpropanenitrile | 5.56 mmol, 3.00 g | C(C1=CC=CC=C1)OC[C@H]1N(CCC1)S(=O)(=O)C=1C=C2C3(C(N(C2=CC1)CC(C#N)(C)C)=O)OCCCO3 | C28H33N3O6S
reactant | NH3 | 180 mL | N | H3N
reactant | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | Raney Nickel | 3.18 g | [Ni] | Ni
solvent | EtOH | 2M | CCO | C2H6O
product | 8-{[(2S)-2-(Hydroxymethyl)pyrrolidin-1-yl]sulfonyl}-3,3-dimethyl-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one | 1.77 g, 60% | OC[C@H]1N(CCC1)S(=O)(=O)C1=CC=2C(C=3N(C2C=C1)CC(CN3)(C)C)=O | C18H23N3O4S
